US04241052
3.1 g of 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea are dissolved in 15 ml of formic acid, and 1.5 g of sodium nitrite are added gradually thereto at 0° C. for one hour under stirring. The mixture is further stirred at the same temperature for one hour. After the reaction, 15 ml of ethanol are added to the reaction mixture. Said mixture is neutralized with potassium carbonate under ice-cooling. Then, 150 ml of ethyl acetate are added to the mixture, and insoluble materials are removed by filtration. The filtrate is washed with an aqueous sodium bicarbonate solution, dried and evaporated to remove solvent. The residue thus obtained is purified by silica gel chromatography (Solvent: ethyl acetate-chloroform-methanol (5:2:1)). 1.5 g of 1-(2-chloroethyl)-1-nitroso-3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea are thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea | 3.1 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC1CC1 | C12H21ClN2O5
reactant | sodium nitrite | 1.5 g | N(=O)[O-].[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | formic acid | 15 ml | C(=O)O | CH2O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-chloroethyl)-1-nitroso-3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea | 1.5 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC1CC1)N=O | C12H20ClN3O6
